US05608110
A. Preparation of 3-Chloro-1-hydroxy-3-methyl-2-butanone oxime
3-Methyl-2-buten-1-ol (8.6 g, 100 mmol) was mixed with isoamyl nitrite (28 g, 240 mmol) at room temperature. The solution was cooled to -5° C. in an ice-salt bath and concentrated HCl (11 mL, 100 mmol) was added dropwise. The reaction temperature was maintained between -5° to 0° C. during the addition. The reaction mixture was stirred in the ice-salt bath for 60 min, filtered and washed with cooled ether to give a white solid. Yield 4.5 g (30%). mp: 114°-115° C. MS (m/z): 305 (2M+2+H)+, 303 (2M+H)+, 154 (M+2+H)+, 152 (M+H)+. 1H NMR (DMSO-d6): δ1.56 (d) and 1.80 (s) [6H, (CH3)2CCHNO and (CH3)2CC=NOH)], 4.10 (m) and 4.26 (s) [2H, HOCH2CH (NO) and HOCH2C=NOH], 5.2 (b, 1H, HOCH2), 5.93 (t) and 11.28 (b) [1H, CHN=O and C=NOH]. 13C (DMSO-d6) δ29.9 [(CH3)2CCHNO], 31.5 [(CH3)2CC=NOH], 53.7 [(CH3)2CCHNO], 59.7 [(CH3)2CC=NOH], 69.4 [HOCH2CH(NO)], 74.1 [HOCH2C=NOH], 160.2 [CHN=O and C=NOH].

reactant | 3-Methyl-2-buten-1-ol | 100 mmol, 8.6 g | CC(=CCO)C | C5H10O
reactant | isoamyl nitrite | 240 mmol, 28 g | N(=O)OCCC(C)C | C5H11NO2
reactant | HCl | 100 mmol, 11 mL | Cl | ClH
product | 3-Chloro-1-hydroxy-3-methyl-2-butanone oxime | ClC(C(CO)=NO)(C)C | C5H10ClNO2
